US07635700B2
To a stirred solution of dimethylamino-acetic acid (0.27 g, 1.9 mmol) in DMF in a 40° C. oil bath (8 mL), was added 1,1′ carbonyldiimidazole (0.35 g, 2.1 mmol) and stirred for one hour. Then 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.65 g, 1.9 mmol) was added and stirred for 15 minutes. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give 2-dimethylamino-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-acetamide as a light yellow solid (340 mg, 46% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 05/95 CH3CN/0.1% H3PO4, 7.29 min (99.8%); mp, 275° C. (decomposed); 1HNMR (DMSO-d6) 2.16-2.19 (m, 7H, CHH and NMe2), 2.63-2.91 (m, 8H, CHCH2, CH3 and NCH2), 4.74-4.76 (m, 2H, CH2NH), 5.25 (dd, J=6, 12 Hz, 1H, CH), 7.31-7.76 (m, 3H, Ar), 8.26 (t, J=6 Hz, 1H, CH2NH), 11.03 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.68, 23.31, 30.59, 41.62, 45.54, 56.51, 62.81, 117.69, 125.53, 125.74, 133.96, 140.54, 148.52, 154.82, 161.03, 169.42, 169.63, 172.63. LCMS MH=386; Anal Calcd For C19H23N5O4: C, 59.21; H, 6.01; N, 18.17. Found: C, 58.95; H, 6.05; N, 17.79.

reactant | dimethylamino-acetic acid | 1.9 mmol, 0.27 g | CN(C)CC(=O)O | C4H9NO2
reactant | 1,1′ carbonyldiimidazole | 2.1 mmol, 0.35 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.9 mmol, 0.65 g | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-dimethylamino-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-acetamide | 340 mg, 46% yield | CN(CC(=O)NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O)C | C19H23N5O4
